data/polar.json
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:5]1(=[O:10])[N-:6][CH2:18][CH2:19][O:14]1.[O:1]=[C:23]1[N:7]([CH3:20])[C:22](=[O:9])[N:8]([CH3:21])[C:24](=[O:2])[C:15]1=[CH:17][c:11]1[cH:25][cH:3][c:16]([O:13][CH3:12])[cH:4][cH:26]1>>[O-:1][c:23]1[n:7]([CH3:20])[c:22](=[O:9])[n:8]([CH3:21])[c:24](=[O:2])[c:15]1[CH:17]([N:6]1[C:5](=[O:10])[O:14][CH2:19][CH2:18]1)[c:11]1[cH:25][cH:3][c:16]([O:13][CH3:12])[cH:4][cH:26]1", "epd": [["LP-/Sigma+", [6], [6, 17]], ["Pi-/Pi+", [17, 15], [15, 23]], ["Pi-/LP+", [23, 1], [1]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:1][C:12]([CH3:2])=[N+:22]([O-:27])[O-:28].[O:3]=[S:14](=[O:4])([N:13]([S:11][C:7]([F:8])([F:9])[F:10])[S:15](=[O:5])(=[O:6])[c:30]1[cH:18][cH:25][cH:21][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:20][cH:24][cH:17]1>>[CH3:1][C:12]([CH3:2])([S:11][C:7]([F:8])([F:9])[F:10])[N+:22](=[O:27])[O-:28].[O:3]=[S:14](=[O:4])([N-:13][S:15](=[O:5])(=[O:6])[c:30]1[cH:18][cH:25][cH:21][cH:26][cH:19]1)[c:29]1[cH:16][cH:23][cH:20][cH:24][cH:17]1", "epd": [["LP-/Pi+", [27], [22, 27]], ["Pi-/Sigma+", [12, 22], [12, 11]], ["Sigma-/LP+", [11, 13], [13]]]}
{"reaction_name": "Sulfide-to-sulfoxide oxidation", "rsmi": "[CH3:1][S:3][CH3:2].[O:4]([O:6][H:9])[C:8](=[O:5])[CH3:7]>>[CH3:1][S:3]([CH3:2])=[O:6].[O:4]([C:8](=[O:5])[CH3:7])[H:9]", "epd": [["LP-/Sigma+", [3], [3, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [6, 9], [6]], ["LP-/Pi+", [6], [3, 6]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[N:1]1([c:19]2[cH:26][cH:4][n:32][cH:5][cH:27]2)[CH2:15][CH2:29][CH2:6][CH:16]1[C:23]([c:20]1[cH:7][cH:11][cH:17][cH:12][cH:8]1)([c:21]1[cH:9][cH:13][cH:18][cH:14][cH:10]1)[F:28].[cH:2]1[cH:3][cH:25][cH:31][cH+:22][cH:30][cH:24]1>>[N+:1]1(=[c:19]2[cH:26][cH:4][n:32]([CH:22]3[CH:30]=[CH:24][CH:2]=[CH:3][CH:25]=[CH:31]3)[cH:5][cH:27]2)[CH2:15][CH2:29][CH2:6][CH:16]1[C:23]([c:20]1[cH:7][cH:11][cH:17][cH:12][cH:8]1)([c:21]1[cH:9][cH:13][cH:18][cH:14][cH:10]1)[F:28]", "epd": [["Pi-/Sigma+", [5, 32], [22, 32]], ["LP-/Pi+", [1], [1, 19]], ["Pi-/Pi+", [19, 27], [5, 27]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:1][C:9]([CH3:2])([CH3:3])[c:32]1[cH:18][cH:38][cH:19][c:33]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1[N:34]1[C:14](=[CH:55][c:58]2[cH:46][cH:16][c:21]([N+:64](=[O:12])[O-:23])[cH:17][cH:47]2)[N:11]([c:27]2[c:43]([C:7]([CH3:49])([CH3:50])[CH3:51])[cH:39][cH:60][cH:40][c:44]2[C:8]([CH3:52])([CH3:53])[CH3:54])[N:63]=[C:45]1[c:20]1[cH:61][cH:28][cH:59][cH:29][cH:62]1.[cH:13]1[cH:31][cH:15][c:24]2[c:35]([o+:25][c:30](-[c:56]3[cH:41][cH:36][cH:57][cH:37][cH:42]3)[cH:26][cH:48]2)[cH:65]1>>[CH3:1][C:9]([CH3:2])([CH3:3])[c:32]1[cH:18][cH:38][cH:19][c:33]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1-[n:34]1[c:14]([CH:55]([CH:48]2[c:24]3[cH:15][cH:31][cH:13][cH:65][c:35]3[O:25][C:30]([c:56]3[cH:41][cH:36][cH:57][cH:37][cH:42]3)=[CH:26]2)[c:58]2[cH:46][cH:16][c:21]([N+:64](=[O:12])[O-:23])[cH:17][cH:47]2)[n+:11](-[c:27]2[c:43]([C:7]([CH3:49])([CH3:50])[CH3:51])[cH:39][cH:60][cH:40][c:44]2[C:8]([CH3:52])([CH3:53])[CH3:54])[n:63][c:45]1-[c:20]1[cH:61][cH:28][cH:59][cH:29][cH:62]1", "epd": [["LP-/Pi+", [11], [11, 14]], ["Pi-/Sigma+", [14, 55], [48, 55]], ["Pi-/Pi+", [26, 48], [26, 30]], ["Pi-/LP+", [25, 30], [25]]]}
{"reaction_name": "Glycosyl trichloroacetimidate substitution", "rsmi": "[NH:1]=[C:6]([O:2][CH:3]1[O:7][CH2:12][CH2:4][CH2:13][CH2:8]1)[C:14]([Cl:9])([Cl:10])[Cl:11].[O:5]([CH3:15])[H:16]>>[CH:3]1([O:5][CH3:15])[O:7][CH2:12][CH2:4][CH2:13][CH2:8]1.[NH:1]([C:6](=[O:2])[C:14]([Cl:9])([Cl:10])[Cl:11])[H:16]", "epd": [["LP-/Pi+", [2], [2, 6]], ["Pi-/LP+", [1, 6], [1]], ["LP-/Sigma+", [1], [1, 16]], ["Sigma-/LP+", [5, 16], [5]], ["LP-/Sigma+", [5], [3, 5]], ["Sigma-/LP+", [2, 3], [2]]]}
{"reaction_name": "Crossed Claisen condensation", "rsmi": "[CH3:1][O:16][C:17](=[O:4])[CH2:14][H:18].[O-:2][CH3:5].[O:3]=[C:6]([O:7][CH3:10])[c:15]1[cH:8][cH:12][cH:11][cH:13][cH:9]1>>[CH3:1][O:16][C:17](=[O:4])[CH2:14][C:6](=[O:3])[c:15]1[cH:8][cH:12][cH:11][cH:13][cH:9]1.[O-:7][CH3:10].[O:2]([CH3:5])[H:18]", "epd": [["Sigma-/Sigma+", [14, 18], [6, 14]], ["Pi-/LP+", [3, 6], [3]], ["LP-/Pi+", [3], [3, 6]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [2], [2, 18]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:3]1([Cl:15])=[C:24]([Cl:13])[C:25]([Cl:19])=[C:9]([Cl:17])[C:23]([Cl:6])([Cl:7])[C:14]1=[O:16].[O-:1][C:18](=[CH:2][c:8]1[cH:11][cH:4][cH:21][cH:5][cH:12]1)[O:20][CH2:22][CH3:10]>>[O:1]=[C:18]([CH:2]([Cl:6])[c:8]1[cH:11][cH:4][cH:21][cH:5][cH:12]1)[O:20][CH2:22][CH3:10].[c:3]1([Cl:15])[c:14]([O-:16])[c:23]([Cl:7])[c:9]([Cl:17])[c:25]([Cl:19])[c:24]1[Cl:13]", "epd": [["LP-/Pi+", [1], [18, 1]], ["Pi-/Sigma+", [2, 18], [2, 6]], ["Sigma-/Pi+", [6, 23], [23, 14]], ["Pi-/LP+", [14, 16], [16]]]}
